US07241890B2
Step 3: 8-(2,5-Dimethoxy-benzyl)-9-pent-4-ynyl-9H-purine-2,6-diamine
A mixture of the purine 8-(2,5-Dimethoxy-benzyl)-9H-purine-2,6-diamine (19.0 g, 63 mmol), 5-chloro-pent-1-yne (12.3 ml, 116 mmol), and Cs2CO3 (37.8 g, 116 mmol) in DMF (180 g) was heated to 50° C. for 16 h. Filtration and washing (2×200 ml H2O) afforded some desired product (5.8 g, 25%). The mother liquor was concentrated, diluted with EtOAc, and heated to reflux for 1 h to yield additional product (6.0 g, 26%). After cooling to room temperature, addition of 1 volume hexane to the EtOAc mother liquor gave additional product (2.6 g, 11%). Final work-up (CH2Cl2:MeOH 4:1—water) yielded additional product (5.3 g, containing 1 equivalent penty-4-yn-1-ol, 18%). Rf=0.65 in 1:10 MeOH:EtOAc. 1H NMR (DMSO-d6) δ 6.92 (d, J=8.9 Hz, 1H), 6.98 (dd, J=8.9 & 3.0 Hz, 1H), 6.59 (s, J=2.9 Hz, 1H), 6.58-6.53 (br. s, 2H), 5.72-5.68 (br. s, 2H), 4.02 (s, 2H), 3.92 (t, J=7.4 Hz, 2H), 3.73 (s, 3H), 3.62 (s, 3H), 2.84 (t, J=2.5 Hz, 1H), 2.13 (td, J=7.0 & 1.7 Hz, 2H), 1.74 (quint., J=7.3 Hz, 2H); MS 367 (M+1).

reactant | purine 8-(2,5-Dimethoxy-benzyl)-9H-purine-2,6-diamine | 63 mmol, 19.0 g | COC1=C(CC=2NC3=NC(=NC(=C3N2)N)N)C=C(C=C1)OC.N1=CN=C2N=CNC2=C1
reactant | 5-chloro-pent-1-yne | 116 mmol, 12.3 ml | ClCCCC#C | C5H7Cl
reactant | Cs2CO3 | 116 mmol, 37.8 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 180 g | CN(C)C=O | C3H7NO
product | 8-(2,5-Dimethoxy-benzyl)-9-pent-4-ynyl-9H-purine-2,6-diamine | 5.8 g, 25% | COC1=C(CC=2N(C3=NC(=NC(=C3N2)N)N)CCCC#C)C=C(C=C1)OC | C19H22N6O2
